US07238808B2
4-[7-Difluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-benzenesulfonamide
The title compound was prepared from 7-Difluoromethyl-3-ethynyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine (example C.2) (337 mg, 1.0 mmol) and 4-bromobenzenesulfonamide [CAS 701-34-8] (307 mg, 1.3 mmol) according to general procedure II. Obtained as a yellow solid (150 mg, 30%). MS (ISP) 493.2[(M+H)+]; mp 254° C.

reactant | 7-Difluoromethyl-3-ethynyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine | 1.0 mmol, 337 mg | FC(C1=CC(=NC=2N1N=CC2C#C)C2=CC=C(C=C2)C(F)(F)F)F | C16H8F5N3
reactant | 4-bromobenzenesulfonamide | 1.3 mmol, 307 mg | BrC1=CC=C(C=C1)S(=O)(=O)N | C6H6BrNO2S
product | 4-[7-Difluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-benzenesulfonamide | FC(C1=CC(=NC=2N1N=CC2C#CC2=CC=C(C=C2)S(=O)(=O)N)C2=CC=C(C=C2)C(F)(F)F)F | C22H13F5N4O2S
